********************************************
**  LM555 Timer Bipolar Model             **
**  (c) 2007 DesignSoft, Inc.             **
********************************************
*National Semiconductor LM555
.SUBCKT LM555_ GND TRIG OUT RESET CONT THRES DISC VCC
*QT24        GND 9 OUT  QPNP_555_O 10
D2          OUT 9  D_555 
QT21        11 11 10  QNPN_555 
QT16        13 12 GND  QNPN_555 
QT15        12 12 GND  QNPN_555 
QT17        11 13 14  QNPN_555 
QT12        16 15 GND  QNPN_555 
QT13        15 15 GND  QNPN_555 
R8          17 18  100
R9          18 GND  3.3K
R10         18 19  120
QT25        17 RESET 11  QPNP_555 
QT26        OUT 19 GND  QNPN_555_O 10 
R12         20 OUT  3.9K
QT28        VCC 20 OUT  QNPN_555_O 10 
R11         VCC 9  6.2K
QT27        VCC 9 20  QNPN_555 
QT23        9 21 18  QNPN_555 
QT22        21 22 VCC  QPNP_555 
QT22_       22 22 VCC  QPNP_555 
R7          14 21  4.7K
QT20        21 10 GND  QNPN_555 
R6          22 11  7.5K
QT19        10 14 GND  QNPN_555 
QT18        14 16 GND  QNPN_555 
QT14        DISC 17 GND  QNPN_555_O 10 
R1          23 GND  5K
R4          CONT 23  5K
R3          VCC CONT  5K
QT9         15 25 24  QPNP_555 
QT10        GND 23 25  QPNP_555 
QT8         16 26 24  QPNP_555 
QT7         GND TRIG 26  QPNP_555 
QT11        24 22 27  QPNP_555 
R5          28 GND  10K
QT6_        29 29 VCC  QPNP_555 
QT6         12 29 VCC  QPNP_555 
QT5         13 30 VCC  QPNP_555 
R2          VCC 27  1K
QT5_        30 30 VCC  QPNP_555 
QT3         29 31 28  QNPN_555 
QT4         29 CONT 31  QNPN_555 
QT2         30 32 28  QNPN_555 
QT1         30 THRES 32  QNPN_555 
.MODEL QPNP_555   PNP( IS=10F NF=1.1 NR=1.1 BF=80 BR=5 CJC=2.0P CJE=2.0P
+       TF=100P TR=1000P VAF=20 )
.MODEL QNPN_555   NPN( IS=10F NF=1.1 NR=1.1 BF=80 BR=5 CJC=2.0P CJE=2.0P
+       TF=100P TR=1000P VAF=20 )
.MODEL QPNP_555_O   PNP( IS=10F NF=1.1 NR=1.1 BF=80 BR=5 IKF=40M CJC=2.0P CJE=2.0P
+       TF=100P TR=1000P VAF=20 RC=60 )
.MODEL QNPN_555_O   NPN( IS=10F NF=1.1 NR=1.1 BF=80 BR=5 IKF=40M CJC=2.0P CJE=2.0P
+       TF=100P TR=1000P VAF=20 RC=60 )
.MODEL D_555  D( IS=10F N=1.1 CJ0 = 2.0P TT = 1000p RS=6)
.ENDS LM555_
