*$
* OPA340
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA340
* Date: 04FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS073C -SEPTEMBER 1997-REVISED AUGUST 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Final 1.2
* Updated with unique subckt name, Vos drift, Current Noise and edits in claw block
*
* Final 1.1
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
***************************************************************************** 
.subckt OPA340 IN+ IN- VCC VEE OUT
******************************************************
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
V_ORn       36 VCLP -1.3
V_ORp       37 VCLP 1.18
XV_OS        40 29 VOS_DRIFT_OPA340
V4          ZO_OUT_J1 OUT 0
V_GRp       53 MID 199
V_GRn       54 MID -204
V_ISCp      49 MID 48.7528
V_ISCn      50 MID -53.6199
V11         44 48 0
V12         43 47 0
VCM_MIN     67 VEE_B -300M
VCM_MAX     68 VCC_B 300M
I_Q         VCC VEE 750U
I_OS        ESDn MID 1F
I_B         29 MID 200F
XIn11       ESDn MID FEMT_0_0_OPA340
XU6         VEE VCC ESDn ESDp ESD_0_OPA340
XU2         OUT_J1_21 VCC_B MID PSRR_CMRR_0_OPA340
XU3         OUT_J1_22 VEE_B MID PSRR_CMRR_1_OPA340
XU4         OUT_J1_23 ESDp MID PSRR_CMRR_2_OPA340
XU1 Zo_Cleft CL_CLAMP Zo_Cright MID ZO_OUT_J1 AOL_INN_J1 AOL_INP_J1 CLAMP 
+ CLAW_CLAMP VSENSE AOL_ZO_0_OPA340 
C_DIFF      ESDp ESDn 3P   
XIn12       MID 29 FEMT_0_0_OPA340
XGR_SRC     30 31 CLAMP MID VCCS_LIM_GR_0_0_OPA340
XCL_SRC     32 33 CL_CLAMP MID VCCS_LIM_4_0_0_OPA340
XCLAW_SRC   34 35 CLAW_CLAMP MID VCCS_LIM_3_0_0_OPA340
XCLAWp      VIMON MID 38 VCC_B VCCS_LIM_CLAW+_0_0_OPA340
XCLAWn      MID VIMON VEE_B 39 VCCS_LIM_CLAW-_0_0_OPA340
Xe_n        29 ESDp VNSE_0_0_OPA340
H2          41 MID V11 -1
H3          42 MID V12 1
S1          Zo_Cleft Zo_Cright SW_OL MID  S_VSWITCH_1
S7          VEE OUT VEE OUT  S_VSWITCH_2
S6          OUT VCC OUT VCC  S_VSWITCH_2
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_4
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_4
C_CMn       ESDn MID 6P   
C_CMp       MID ESDp 6P   
C28         45 MID 1P   
R77         42 45 R_NOISELESS 100 
C27         46 MID 1P   
R76         41 46 R_NOISELESS 100 
R75         MID 47 R_NOISELESS 1 
GVCCS8      47 MID 37 MID  -1
R74         48 MID R_NOISELESS 1 
GVCCS7      48 MID 36 MID  -1
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_OPA340
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_OPA340
XCL_AMP     49 50 VIMON MID 51 52 CLAMP_AMP_LO_0_OPA340_0_OPA340
XGR_AMP     53 54 55 MID 56 57 CLAMP_AMP_HI_0_OPA340
R39         53 MID R_NOISELESS 1T 
R37         54 MID R_NOISELESS 1T 
R42         VSENSE 55 R_NOISELESS 1M 
C19         55 MID 1F   
R38         56 MID R_NOISELESS 1 
R36         MID 57 R_NOISELESS 1 
R40         56 30 R_NOISELESS 1M 
R41         57 31 R_NOISELESS 1M 
C17         30 MID 1F   
C18         MID 31 1F   
R21         51 MID R_NOISELESS 1 
R20         MID 52 R_NOISELESS 1 
R29         51 32 R_NOISELESS 1M 
R30         52 33 R_NOISELESS 1M 
C9          32 MID 1F   
C8          MID 33 1F   
R22         49 MID R_NOISELESS 1T 
R19         MID 50 R_NOISELESS 1T 
R12         38 VCC_B R_NOISELESS 1K 
R16         38 58 R_NOISELESS 1M 
R13         VEE_B 39 R_NOISELESS 1K 
R17         59 39 R_NOISELESS 1M 
C6          59 MID 1F   
C5          MID 58 1F   
G2          VCC_CLP MID 58 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 59 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 60 61 CLAMP_AMP_LO_0_OPA340
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         60 MID R_NOISELESS 1 
R24         MID 61 R_NOISELESS 1 
R27         60 34 R_NOISELESS 1M 
R28         61 35 R_NOISELESS 1M 
C11         34 MID 1F   
C10         MID 35 1F   
C12         SW_OL MID 100P   
R32         62 SW_OL R_NOISELESS 100 
R31         62 MID R_NOISELESS 1 
XOL_SENSE   MID 62 46 45 OL_SENSE_0_OPA340
H1          63 MID V4 1K
R11         MID 64 R_NOISELESS 1T 
R18         64 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N   
E2          64 MID OUT MID  1
C13         VIMON MID 1N   
R33         63 VIMON R_NOISELESS 100 
R10         MID 63 R_NOISELESS 1T 
R47         65 VCLP R_NOISELESS 100 
C24         VCLP MID 100P   
E4          65 MID CL_CLAMP MID  1
C4          AOL_INP_J1 MID 1F   
R9          AOL_INP_J1 66 R_NOISELESS 1M 
R7          MID 67 R_NOISELESS 1T 
R6          68 MID R_NOISELESS 1T 
R8          MID 66 R_NOISELESS 1 
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0_OPA340
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          71 VEE_B R_NOISELESS 1M 
C3          71 0 1F   
R60         70 71 R_NOISELESS 1MEG 
C1          70 0 1   
R3          70 0 R_NOISELESS 1T 
R59         72 70 R_NOISELESS 1MEG 
C2          72 0 1F   
R4          VCC_B 72 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K 
G1          69 73 OUT_J1_21 OUT_J1_22  -1M
R2          AOL_INN_J1 ESDn R_NOISELESS 1M 
R1          73 74 R_NOISELESS 1M 
R_CMR       40 74 R_NOISELESS 1K 
G5          74 40 OUT_J1_23 MID  -1M
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_4 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)

* 
.SUBCKT VOS_DRIFT_OPA340  VOS+ VOS-
.PARAM DC = 2.96E-06
.PARAM POL = 1
.PARAM DRIFT = 2.50E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
* 
.SUBCKT ESD_0_OPA340 VEE VCC ESDn ESDp
S5          VEE ESDp VEE ESDp  S_VSWITCH_1
S4          VEE ESDn VEE ESDn  S_VSWITCH_1
S2          ESDn VCC ESDn VCC  S_VSWITCH_1
S3          ESDp VCC ESDp VCC  S_VSWITCH_1
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.ENDS
* 
.SUBCKT PSRR_CMRR_0_OPA340 OUT IN MID
.model R_NOISELESS RES(T_ABS=-273.15)
R80         MID OUT R_NOISELESS 80.06K 
C27         OUT 81 198.9F   
R79         81 OUT R_NOISELESS 100MEG 
GVCCS8      81 MID IN MID  -36.76M
R78         MID 81 R_NOISELESS 1 
.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_2 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_3 RES ( TCE=0 T_ABS=-273.15)
.ENDS
* 
.SUBCKT PSRR_CMRR_1_OPA340 OUT IN MID
.model R_NOISELESS RES(T_ABS=-273.15)
R80         MID OUT R_NOISELESS 80.0640512K 
C27         OUT 82 198.94F   
R79         82 OUT R_NOISELESS 100MEG 
GVCCS8      82 MID IN MID  -36.763M
R78         MID 82 R_NOISELESS 1 
.ENDS
* 
.SUBCKT PSRR_CMRR_2_OPA340 OUT IN MID
.model R_NOISELESS RES(T_ABS=-273.15)
R80         MID OUT R_NOISELESS 13.3351113K 
C27         OUT 83 7.9577P   
R79         83 OUT R_NOISELESS 100MEG 
GVCCS8      83 MID IN MID  -194.56M
R78         MID 83 R_NOISELESS 1 
.ENDS
* 
.SUBCKT AOL_ZO_0_OPA340 ZO_CLEFT CL_CLAMP ZO_CRIGHT MID ZO_OUT AOL_INN AOL_INP CLAMP 
+ CLAW_CLAMP VSENSE 
.model R_NOISELESS RES(T_ABS=-273.15)
R14         86 87 R_NOISELESS 9K 
R15         86 88 R_NOISELESS 10K 
C6          88 MID  1.67500000000000E-0016   
R7_2        87 MID R_NOISELESS 1 
GVCCS7      87 MID 89 MID  -5.907MEG
GVCCS6      91 MID 90 MID  -1
C5          91 89 195F   
R13         89 MID R_NOISELESS 1.693M 
R12         89 91 R_NOISELESS 10K 
R11         91 MID R_NOISELESS 1 
R7_2_2      92 MID R_NOISELESS 1 
C4          93 MID 400F   
R10         90 93 R_NOISELESS 10K 
R9          90 92 R_NOISELESS 10K 
GVCCS5      92 MID 94 MID  -1
R7_2_3      95 MID R_NOISELESS 1 
C3          96 MID 400F   
R8          94 96 R_NOISELESS 10K 
R7          94 95 R_NOISELESS 10K 
GVCCS4      95 MID 97 MID  -1
R9_3        98 MID R_NOISELESS 1 
XU1         86 MID MID 98 VCCS_LIM_ZO_0_0_OPA340
R7_2_4      99 MID R_NOISELESS 1 
C2_2        100 MID 1P   
R5_2        97 100 R_NOISELESS 10K 
R4_2        97 99 R_NOISELESS 7.241K 
GVCCS3      99 MID 101 MID  -3.713
GVCCS2      102 MID ZO_CRIGHT MID  -3.6
C2          102 101 2.307U   
R6          101 MID R_NOISELESS 3.686K 
R3          101 102 R_NOISELESS 10K 
R2          102 MID R_NOISELESS 1 
C1          ZO_CLEFT ZO_CRIGHT 2.122U   
R5          ZO_CRIGHT MID R_NOISELESS 3.846K 
R4          ZO_CRIGHT ZO_CLEFT R_NOISELESS 10K 
Rdummy      MID ZO_OUT R_NOISELESS 10K 
Rx          ZO_OUT 98 R_NOISELESS 100K 
R1          ZO_CLEFT MID R_NOISELESS 1 
GVCCS1      ZO_CLEFT MID CL_CLAMP ZO_OUT  -89
C2_A2       out2 MID 7.7588F   
R3_A2       MID out2 R_NOISELESS 1MEG 
GVCCS3_A2   out2 MID VSENSE MID  -1U
R4_VS       MID VSENSE R_NOISELESS 1K 
GVCCS4_VS   VSENSE MID CLAMP MID  -1M
GVCCS4_CL   CL_CLAMP MID CLAW_CLAMP MID  -1M
XVCCS_LIM_2 4_A0 MID MID CLAMP VCCS_LIM_2_0_0_OPA340
C1_A0       CLAMP MID 37N   
R4_A0       MID CLAMP R_NOISELESS 1MEG 
R3_A0       MID 4_A0 R_NOISELESS 1MEG 
XVCCS_LIM_1 AOL_INP AOL_INN MID 4_A0 VCCS_LIM_1_0_OPA340
R4_CL       MID CL_CLAMP R_NOISELESS 1K 
R4_CC       MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS4_CC   CLAW_CLAMP MID out2 MID  -1M
.ENDS
* 
.SUBCKT FEMT_0_0_OPA340   1 2
.PARAM NVRF=3
.PARAM RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ENDS
* 
.SUBCKT VCCS_LIM_GR_0_0_OPA340   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.36055E1
.PARAM INEG = -0.36055E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_4_0_0_OPA340   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.8358E1
.PARAM INEG = -0.8568E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_3_0_0_OPA340   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.4179E1
.PARAM INEG = -0.4284E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW+_0_0_OPA340   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.13e-6)
+(16.2509, 0.00018159)
+(32.5019, 0.00035753)
+(43.3358, 0.00051759)
+(43.8775, 0.0005375)
+(44.9609, 0.00059506)
+(46.0443, 0.00070154)
+(47.1277, 0.00098055)
+(48.2111, 0.0016587)
+(48.7528, 0.002)
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW-_0_0_OPA340   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.24e-6)
+(17.8733, 0.00020801)
+(35.7466, 0.00042129)
+(43.1241, 0.000500)
+(47.6621, 0.00063108)
+(48.2579, 0.00066067)
+(49.4495, 0.00073221)
+(50.641, 0.00086111)
+(51.8326, 0.00114)
+(53.6199, 0.002)
.ENDS
* 
.SUBCKT VNSE_0_0_OPA340   1 2
.PARAM FLW=1
.PARAM NLF=505
.PARAM NVR=17.6
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
* 
.SUBCKT VCCS_LIMIT_IQ_0_OPA340   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_OPA340_0_OPA340   VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_HI_0_OPA340  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_OPA340  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT OL_SENSE_0_OPA340  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
* 
.SUBCKT VCCS_EXT_LIM_0_OPA340  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
* 
.SUBCKT VCCS_LIM_ZO_0_0_OPA340   VC+ VC- IOUT+ IOUT-
.PARAM GAIN =1
.PARAM IPOS = 9750.56E3
.PARAM INEG = -10723.98E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_2_0_0_OPA340   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.01214
.PARAM IPOS = 0.22246
.PARAM INEG = -0.22243
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_1_0_OPA340  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.ENDS OPA340